US04584293
1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-allyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane
The title compound is prepared from 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloropropane and 2-allylamino-6,7-dimethoxy-1,2,3,4-tetrahydronaphthalene analogously to Example 1. Mp: 226°-228° C.

reactant | 1-[7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-chloropropane | COC1=CC2=C(CC(N(CC2)CCCCl)=O)C=C1OC | C15H20ClNO3
reactant | 2-allylamino-6,7-dimethoxy-1,2,3,4-tetrahydronaphthalene | C(C=C)NC1CC2=CC(=C(C=C2CC1)OC)OC | C15H21NO2
product | 1-[7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl]-3-[N-allyl-N-(6,7-dimethoxy-1,2,3,4-tetrahydronaphth-2-yl)-amino]-propane | COC1=CC2=C(CC(N(CC2)CCCN(C2CC3=CC(=C(C=C3CC2)OC)OC)CC=C)=O)C=C1OC | C30H40N2O5
